US04935437
A mixture of 4-formyl-1-tritylimidazole (0.5 g), 2,2'-(5-bromomethyl-1,3-phenylene)di(2-methylpropiononitrile) and acetonitrile (2 ml) was heated under reflux for 30 h. The reaction mixture was treated with acetic acid (8 ml) and water (2 ml) and the mixture was then heated at 90° for 1 h. The mixture was diluted with water (20 ml) and washed with ether, the aqueous phase was basified with sodium carbonate, and the mixture was extracted three times with ethyl acetate. The combined extracts were dried and evaporated to dryness, and the residue was purified by flash chromatography using methanol (2% by volume) in chloroform as eluant, to give 2,2'-[5-(5-formylimidazol-1-yl)-1,3-phenylene]di(2-methylpropiononitrile), mp 108°-111°.

reactant | 4-formyl-1-tritylimidazole | 0.5 g | C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H18N2O
reactant | 2,2'-(5-bromomethyl-1,3-phenylene)di(2-methylpropiononitrile) | BrCC=1C=C(C=C(C1)C(C#N)(C)C)C(C#N)(C)C | C15H17BrN2
reactant | acetonitrile | 2 ml | C(C)#N | C2H3N
reactant | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
solvent | water | 20 ml | O | H2O
solvent | water | 2 ml | O | H2O
product | 2,2'-[5-(5-formylimidazol-1-yl)-1,3-phenylene]di(2-methylpropiononitrile) | C(=O)C1=CN=CN1C=1C=C(C=C(C1)C(C#N)(C)C)C(C#N)(C)C | C18H18N4O
